US05627006
Synthesis of poly[p-(1-benzyloxy-1-methylethoxy)-styrene/p-hydroxystyrene]
Using poly(p-hydroxystyrene) (4.0 g) [available from Maruzen Petrochemical Co., Ltd.: Mw ca. 20000] and benzylisopropenylether (4.2 g) [purchased from Tokyo Chemical Industry Co., Ltd.], the reaction and treatment were carried out in the same manner as described in Synthesis Example 2, to give 4.1 g of the desired product as a slightly yellow powder. The polymer was found to have p-(1-benzyloxy-1-methylethoxy)styrene unit and p-hydroxystyrene unit in a molar ratio of 4:6 based on 1HNMR.

reactant | poly(p-hydroxystyrene) | 4.0 g | C#CC1=CC=C(C=C1)O | C8H6O
reactant | benzylisopropenylether | 4.2 g | C(C1=CC=CC=C1)OC(=C)C | C10H12O
product | p-(1-benzyloxy-1-methylethoxy)-styrene p-hydroxystyrene | 4.1 g | C(C1=CC=CC=C1)OC(C)(OC1=CC=C(C=C)C=C1)C.OC1=CC=C(C=C)C=C1 | InChI=1S/C18H20O2.C8H8O/c1-4-15-10-12-17(13-11-15)20-18(2,3)19-14-16-8-6-5-7-9-16;1-2-7-3-5-8(9)6-4-7/h4-13H,1,14H2,2-3H3;2-6,9H,1H2
